US04737502
(a) 1-(2-Keto-5-pentyl)-3,7-dimethylxanthine
A suspension of 80% sodium hydride in mineral oil (3 g; 0.1 moles) was added in small portions during 10 minutes, to a suspension of 18 g (0.1 moles) of theobromine in 400 ml of anhydrous dimethylformamide. The reaction mixture was heated to 95°-100° C. for 3 hours. Then 13.26 g (0.11 moles) of 5-chloro-2-pentanone were added, and the reaction mixture was maintained at 95°-100° C. for 20 hours more. After filtration, the filtrate was evaporated under reduced pressure, the residue was treated with 150 ml of water and the pH was adjusted to 13-14 with a 10% NaOH aqueous solution. The mixture was extracted with 3×80 ml of methylene chloride, the combined organic extracts were washed with 3×50 ml of water, dried over anhydrous sodium sulfate, filtered and evaporated under vacuum. 2.95 Grams (11.2%) of the title compound were obtained, melting at 109°-111° C., which was directly used in the next step. The 1H-NMR spectrum was consistent with the formula.

reactant | sodium hydride | [H-].[Na+]
reactant | theobromine | 0.1 moles, 18 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | 5-chloro-2-pentanone | 0.11 moles, 13.26 g | ClCCCC(C)=O | C5H9ClO
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 1-(2-Keto-5-pentyl)-3,7-dimethylxanthine | 11.2% | O=C(C)CCCN1C(=O)N(C=2N=CN(C2C1=O)C)C | C12H16N4O3
